US06369086B1
d) 1,6-diazainden-2(3H)-one hydrochloride
To a 50-ml round-bottom flask was added 0.36 g (2.0 mmol) of 3-amino-4-pyridineacetic acid ethyl ester, 15 mL of ether and 10 mL of 10% hydrochloric acid. The resulting biphasic solution was stirred for 16 hours at room temperature. The two phases were separated, and the ether phase was washed with 5 mL of water. The combined aqueous phases were evaporated to dryness to yield 0.285 g of the title compound as a brown solid. 1H NMR (DMSO-d6): δ5.93 (s, 1H), 7.59 (d, J=5.6 Hz, 1H), 8.02 (s,1H), 8.49 (d, J=5.6 Hz, 1H), 12.54 (s, 1H), 14.0 (bs, 1H); C8H6N2O: APCI+MS: m/z 135 (M+H).

reactant | 3-amino-4-pyridineacetic acid ethyl ester | 2.0 mmol, 0.36 g | C(C)OC(CC1=C(C=NC=C1)N)=O | C9H12N2O2
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | ether | 15 mL | CCOCC | C4H10O
product | 1,6-diazainden-2(3H)-one hydrochloride | 0.285 g | Cl.N1C(CC2=CC=NC=C12)=O | InChI=1S/C7H6N2O.ClH/c10-7-3-5-1-2-8-4-6(5)9-7;/h1-2,4H,3H2,(H,9,10);1H
